US05331006
Step A: Preparation of methyl α-methyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate
To a solution of tricyclo[3.3.1.13,7 ]dec-2-yl carbonchloridate [5.77 g, 0.026 mmol, prepared from 2-adamantanol and his (trichloromethyl)carbonate (Horwell, D. C., et al, J. Med. Chem. 1991, 34,404-414)] in 60 mL THF, a solution of DL-α-methyltyrosine methyl ester (5.0 g, 0.0238 mol, prepared from the DL-α-methyltyrosine methyl ester hydrochloride using 1M K2CO3 and EtOAc) in 320 mL THF was added dropwise via an addition funnel, keeping the temperature below 25° C. A solution of triethylamine (4.81 g, 0.047 mol) in 120mL THF was then added dropwise and the heterogeneous reaction mixture was stirred for 16 hours at room temperature under a nitrogen atmosphere. The amine salt was filtered and the filtrate was concentrated in vacuo to givea tan, fluffy solid. Purification by flash chromatography (silica gel, 10% EtOAc/hexane) yielded the title compound. MS: 388 (MH+); 387 (M+).

reactant | tricyclo[3.3.1.13,7 ]dec-2-yl carbonchloridate | 0.026 mmol, 5.77 g | C(OC1C2CC3CC(CC1C3)C2)(=O)Cl | C11H15ClO2
reactant | DL-α-methyltyrosine methyl ester hydrochloride | 1M | CC(CC1=CC=C(C=C1)O)(C(=O)OC)N.Cl
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | triethylamine | 0.047 mol, 4.81 g | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 320 mL | C1CCOC1 | C4H8O
solvent | THF | 120mL | C1CCOC1 | C4H8O
product | methyl α-methyl-N-[(tricyclo[3.3.1.13,7 ]dec-2-yloxy)carbonyl]-DL-tyrosinate | CC(NC(=O)OC1C2CC3CC(CC1C3)C2)(CC2=CC=C(C=C2)O)C(=O)OC | C22H29NO5
